US08710236B2
To a stirring solution of (4-tert-butyl-phenyl)-acetic acid (1.5 g, 7.8 mmol) in benzene (30 mL) at room temperature was added NBS (1.39 g, 7.8 mmol) and AIBN (15 mg, 0.08 mmol). The mixture was heated at 70° C. for 16 hrs, added EtOAc and water. The organic layer was collected and dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude bromo-(4-tert-butyl-phenyl)-acetic acid as a light yellow solid (2.1 g, 99%): 1H NMR (300 MHz, DMSO-d6): 7.46 (m, 4H), 5.74 (s, 1H), 1.29 (s, 9H).

reactant | (4-tert-butyl-phenyl)-acetic acid | 7.8 mmol, 1.5 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=O)O | C12H16O2
reactant | NBS | 7.8 mmol, 1.39 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
catalyst | AIBN | 0.08 mmol, 15 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | bromo-(4-tert-butyl-phenyl)-acetic acid | 2.1 g, 99% | BrC(C(=O)O)C1=CC=C(C=C1)C(C)(C)C | C12H15BrO2
